US08048902B2
Step 2: Synthesis of [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester
(3-Bromo-4-methoxy-phenyl)-acetic acid ethyl ester (27.4 g, 100.3 mmol), bis(pinacolato)diboron (25.47 g, 100.3 mmol), and potassium acetate (24.6 g, 250.8 mmol) were combined in 1,4-dioxane (250 mL) under N2. The solution was purged with N2, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (4.10 g, 5.02 mmol) was added and the reaction was heated to 110° C. overnight. The mixture was filtered through Celite and partitioned between EtOAc and brine. The aqueous layer was separated and extracted twice with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by silica gel chromatography (20-60% EtOAc in hexanes) to give the title compound.

reactant | (3-Bromo-4-methoxy-phenyl)-acetic acid ethyl ester | 100.3 mmol, 27.4 g | C(C)OC(CC1=CC(=C(C=C1)OC)Br)=O | C11H13BrO3
reactant | bis(pinacolato)diboron | 100.3 mmol, 25.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 250.8 mmol, 24.6 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 5.02 mmol, 4.10 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [4-Methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
